US07208526B2
Ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (10 g, 46 mmol) and 2-chloroiodoanisole (4.8 mL, 39.1 mmol) was dissolved in N,N-dimethylformamide (DMF) (75 mL). Palladium acetate (169 mg, 0.75 mmol) and triphenylphosphine (420 mg, 1.6 mmol) was added to the reaction mixture followed by triethylamine (14.7 mL, 106 mmol). The reaction was flushed with nitrogen and heated at 140° C. for 16 hours. The reaction was cooled to room temperature whereupon 1N HCl (275 mL) was added. The aqueous solution was extracted with ethyl acetate (3×225 mL) and the combined organic solution was dried over MgSO4, filtered and concentrated in vacuo to afford a solid. The solid was dissolved in dichloromethane and purified by dry flash chromatography (SiO2, heptane to 1:1 heptane: ethyl acetate). The fractions were combined to afford (E)-2-(2-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide (4.1 g, 32% yield).

reactant | Ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 46 mmol, 10 g | CC(CC(C)(C)C)(C)NS(=O)(=O)C=C | C10H21NO2S
reactant | 2-chloroiodoanisole | 39.1 mmol, 4.8 mL | ClC1=C(C=CC=C1I)OC | C7H6ClIO
reactant | triphenylphosphine | 1.6 mmol, 420 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 106 mmol, 14.7 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium acetate | 0.75 mmol, 169 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-2-(2-chloro-phenyl)-ethenesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 4.1 g, 32% yield | CC(CC(C)(C)C)(C)NS(=O)(=O)\C=C\C1=C(C=CC=C1)Cl | C16H24ClNO2S
